US04002601
N-(2-Isopropyl-1,3-oxazolidin-3-yl)-ethoxycarbonyl stearylamine
295 g of a mixture of hexadecylisocyanate and octadecylisocyanate (commercial stearylisocyanate, 14.8% NCO) are slowly added to 159 g (1 mol) of 2-(2-isopropyl-1,3-oxazolidin-3-yl)-ethanol and 0.1 g of Sn(II) octoate at room temperature with stirring. Stirring is continued for 5 hours at about 50° C after all the isocyanate has been added. The product solidifies after some time to a waxy mass which melts to a clear liquid at temperatures of from 65° to 70° C.

reactant | hexadecylisocyanate | C(CCCCCCCCCCCCCCC)N=C=O | C17H33NO
reactant | octadecylisocyanate | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
reactant | 2-(2-isopropyl-1,3-oxazolidin-3-yl)-ethanol | 1 mol, 159 g | C(C)(C)C1OCCN1CCO | C8H17NO2
reactant | isocyanate | [N-]=C=O
product | N-(2-Isopropyl-1,3-oxazolidin-3-yl)-ethoxycarbonyl stearylamine | C(C)(C)C1OCCN1N(CCCCCCCCCCCCCCCCCC)C(=O)OCC | C27H54N2O3
